US07037909B2
4-Chloro-2,3-dioxo-2,3-dihydro-1H-indole-5-carboxylic acid (Major Isomer)
2-chloro-4-[(-2-(hydroxyimino)ethanoyl)amino]benzoic acid (300 mg, 1.24 mmol) was dissolved in concentrated sulfuric acid (5 mL). It was stirred at 80° C. for 3 h. The reaction mixture was cooled to rt, poured into ice water and it was extracted twice with ethylacetate. The title compound was obtained as an orange solid (256 mg, 92%) containing 12% of the regioisomer (6-chloro-2,3-dioxoindoline-5-carboxylic acid).

reactant | 2-chloro-4-[(-2-(hydroxyimino)ethanoyl)amino]benzoic acid | 1.24 mmol, 300 mg | ClC1=C(C(=O)O)C=CC(=C1)NC(C=NO)=O | C9H7ClN2O4
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-2,3-dioxo-2,3-dihydro-1H-indole-5-carboxylic acid | ClC1=C2C(C(NC2=CC=C1C(=O)O)=O)=O | C9H4ClNO4
